US08008307B2
Step g: [(1R,2R,3S,4R)-2,3-dihydroxy-4-(isonicotinoylamino)cyclopentyl]methyl sulfamate (Compound I-28)
A solution of (1S,2R,3R,5R)-3-{[(aminosulfonyl)oxy]methyl}-5-(isonicotinoylamino)cyclopentane-1,2-diyl dibenzoate (61.1 mg, 0.113 mmol) in a 7.00 M solution of ammonia in MeOH (1.50 mL, 10.5 mmol) was stirred for 2 days. The reaction mixture was then concentrated in vacuo and purified via reverse phase C18 preparative HPLC eluting with a gradient of 5 to 70% of 0.1% FA/95% ACN/5% H2O in 0.1% FA/99% H2O/1% ACN over 16 min to afford the title compound (15.0 mg, 40%). 1H NMR (CD3OD, 300 MHz) δ: 8.67 (m, 2H), 7.78 (m, 2H), 4.34-4.32 (m, 1H), 4.19-4.17 (m, 2H), 3.93-3.92 (m, 2H), 2.38-2.31 (m, 1H), 1.76-1.72 (m, 1H), 1.43-1.38 (m, 1H) ppm. LC/MS: Rt=0.76 min, ES+ 332 (FA standard).

reactant | (1S,2R,3R,5R)-3-{[(aminosulfonyl)oxy]methyl}-5-(isonicotinoylamino)cyclopentane-1,2-diyl dibenzoate | 0.113 mmol, 61.1 mg | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@@H]([C@H](C[C@H]1NC(C1=CC=NC=C1)=O)COS(=O)(=O)N)OC(C1=CC=CC=C1)=O | C26H25N3O8S
reactant | ammonia | N | H3N
reactant | MeOH | 10.5 mmol, 1.50 mL | CO | CH4O
product | [(1R,2R,3S,4R)-2,3-dihydroxy-4-(isonicotinoylamino)cyclopentyl]methyl sulfamate | 15.0 mg, 40% | S(N)(OC[C@@H]1[C@H]([C@H]([C@@H](C1)NC(C1=CC=NC=C1)=O)O)O)(=O)=O | C12H17N3O6S
